US05990102
a) p-Methoxybenzyl 2[(3S, 4R)-4-benzylthio-3-bromo-2-oxoazetidin-1-yl]-3-methybut-2-enoate
A solution of the silver salt of p-methoxybenzyl 2-[(3S, 4R)-4-mercapto-3-bromo-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (10 g, 20 mmol) in dry acetonitrile (100 ml) was treated with benzyl bromide (4 g, 24 mmol) and the resulting mixture refluxed for 30 mins. the reaction was cooled to room temperature, filtered, evaporated to dryness and the residue purified by flash chromatography using 1:1 ether:pentane as the eluting solvent. Evaporation of the appropriate fractions gave the product as a white solid (5.8 g, 59%), mp 70-72° C. 1H NMR δ (CDCl3)1.93 (3H, s, CH3), 2.23 (3H, s, CH3), 3.66 (1H, dd, J=2.9, 17.5 Hz, SCH2), 3.79 (3H, s, OCH3), 4.52 (1H, d, J=1.8 Hz, H3), 4.95 (1H, d, J=1.9 Hz, H4), 5.08 (2H, q, J=12.0 Hz, CO2CH2), 6.84-6.90 (2H, m, 2.6Ph--H), 7.13-7.31 (7H, m, 3,5Ph--H,Ph--H).

reactant | p-methoxybenzyl 2-[(3S, 4R)-4-mercapto-3-bromo-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 20 mmol, 10 g | S[C@@H]1[C@H](C(N1C(C(=O)OCC1=CC=C(C=C1)OC)=C(C)C)=O)Br | C16H18BrNO4S
reactant | benzyl bromide | 24 mmol, 4 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | silver | [Ag] | Ag
product | p-Methoxybenzyl 2[(3S, 4R)-4-benzylthio-3-bromo-2-oxoazetidin-1-yl]-3-methybut-2-enoate | 5.8 g, 59% | C(C1=CC=CC=C1)S[C@@H]1[C@H](C(N1C(C(=O)OCC1=CC=C(C=C1)OC)=C(C)C)=O)Br | C23H24BrNO4S
